US04377580
A mixture of 4-amino-6-chloroquinazoline (8.7 g) and diethyl ethoxymethylenepropanedioate (11.53 g) in N,N-dimethylformamide (25 ml) was stirred for 2 hours and 40 minutes at 150° C. After the reaction mixture was cooled to ambient temperature, to the mixture was added water with stirring to give crystals, which were washed with water, dried under reduced pressure and dissolved in ethyl acetate under heating. Insoluble materials were filtered off. To the filtrate was added hexane and allowed to stand at ambient temperature to give crystals, which were separated by filtration and washed with a mixture of ethyl acetate and hexane to give a mixture (13.48 g) of crystalline diethyl [(6-chloro-4-quinazolinylamino)methylene]propanedioate and ethyl 10-chloro-4-oxo-4H-pyrimido[1,2-c]quinazoline-3-carboxylate.

reactant | 4-amino-6-chloroquinazoline | 8.7 g | NC1=NC=NC2=CC=C(C=C12)Cl | C8H6ClN3
reactant | diethyl ethoxymethylenepropanedioate | 11.53 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | diethyl [(6-chloro-4-quinazolinylamino)methylene]propanedioate | 13.48 g | ClC=1C=C2C(=NC=NC2=CC1)NC=C(C(=O)OCC)C(=O)OCC | C16H16ClN3O4
